US09301526B2
To a stirred solution of 2-chloro-6-(trifluoromethyl)nicotinaldehyde (Int-17) (70 g, 1.0 eq.) in nitro methane (700 mL) was added sodium hydroxide (6.7 g, 0.5 eq.) at room temperature. The resulting reaction mixture was heated to 100° C. and stirred for 2 h. The progress of the reaction was monitored by TLC. After completion of reaction, the reaction mixture was concentrated under reduced pressure to remove nitro methane quenched with ice water (500 mL) and extracted with ethyl acetate (2×1.0 L). The combined organic layer was washed with water (500 mL), brine (500 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to get pure 1-[2-chloro-6-(trifluoromethyl)pyridin-3-yl]-2-nitroethanol (Int-18) (65.0 g, 72.0%).

reactant | 2-chloro-6-(trifluoromethyl)nicotinaldehyde | 70 g, 1.0 eq. | ClC1=C(C=O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO
reactant | sodium hydroxide | 6.7 g, 0.5 eq. | [OH-].[Na+]
reactant | nitro methane | 700 mL | [N+](=O)([O-])C | CH3NO2
product | 1-[2-chloro-6-(trifluoromethyl)pyridin-3-yl]-2-nitroethanol | 65.0 g, 72.0% | ClC1=NC(=CC=C1C(C[N+](=O)[O-])O)C(F)(F)F | C8H6ClF3N2O3
